US08471005B2
N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide (125.0 mg, 0.0003567 mol), N,N-Diisopropylethylamine (0.205 mL, 0.00118 mol) and 4-(4-Methyl-piperazin-1-yl)-phenylamine (0.136 g, 0.000713 mol) were dissolved in 1-Methoxy-2-propanol (0.410 mL, 0.00419 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 113.55 mg of N-(3-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanesulfonamide as a lyophilized powder. (M+H)=478.1. 1H NMR (400 MHz, DMSO, d6) δ 9.78 (m, 1H), 9.32 (s, 1H), 8.98 (s, 1H), 7.90 (m, 2H), 7.67 (m, 2H), 7.53 (m, 1H), 7.27 (d, 1H, J=7.97 Hz), 7.06 (m, 1H), 6.94 (m, 2H), 6.89 (m, 1H), 3.76 (m, 2H), 3.53 (m, 2H), 3.19 (m, 2H), 3.04 (s, 3H), 2.96 (m, 5H).

reactant | N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide | 0.0003567 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)NS(=O)(=O)C | C14H14N4O3S2
reactant | N,N-Diisopropylethylamine | 0.00118 mol, 0.205 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.000713 mol, 0.136 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 1-Methoxy-2-propanol | 0.00419 mol, 0.410 mL | COCC(C)O | C4H10O2
product | N-(3-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanesulfonamide | 113.55 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)NS(=O)(=O)C | C24H27N7O2S
